US06248264B1
A solution of methyl 4-hydroxy-6-morpholino-2-naphthoate (1.0 g, 3.5 mmol) and 1,1-di(4-methoxyphenyl)prop-2-yn-1-ol (0.94 g, 3.5 mmol) in toluene (45 cm3) containing acidic alumina (Brockmann 1), (5.0 g) was refluxed for 100 minutes. The cooled solution was filtered and the alumina was washed well with EtOAc (200 cm3). The organic filtrate was washed with aqueous sodium hydroxide (2M, 2×50 cm3) and water (100 cm3). Removal of the dried (Na2SO4) EtOAc gave an oil which was flash chromatographed over silica using 35% EtOAc in hexane as the eluent to afford a pale yellow solid. Recrystallisation from EtOAc/hexane gave methyl 2,2-bis(4-methoxyphenyl)-9-morpholino-2H-naphtho [1,2-b]pyran-5-carboxylate (yield=0.28 g, theoretical yield=1.87 g 15%, m.p.=153.5-155° C. (uncorrected)).

reactant | methyl 4-hydroxy-6-morpholino-2-naphthoate | 3.5 mmol, 1.0 g | OC1=CC(=CC2=CC=C(C=C12)N1CCOCC1)C(=O)OC | C16H17NO4
reactant | 1,1-di(4-methoxyphenyl)prop-2-yn-1-ol | 3.5 mmol, 0.94 g | COC1=CC=C(C=C1)C(C#C)(O)C1=CC=C(C=C1)OC | C17H16O3
solvent | toluene | 45 cm3 | C1(=CC=CC=C1)C | C7H8
product | methyl 2,2-bis(4-methoxyphenyl)-9-morpholino-2H-naphtho [1,2-b]pyran-5-carboxylate | yield=0.28 g, 15% | COC1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC(=CC=C1C=C2C(=O)OC)N2CCOCC2)C2=CC=C(C=C2)OC | C33H31NO6
